US04189480
3-Isothiocyanatopyridine (2.6 g) is added to a solution of (RS)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline (3.3 g) in ethanol (40 cc). A white precipitate forms after 5 hours; stirring is continued for 12 hours at a temperature of about 20° C. The crystals which have appeared are filtered off and washed with diethyl ether (2×5 cc). (RS)-3-(2-Hydroxyethyl)-N-(pyrid-3-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide (4.7 g), melting at 174° C., is thus obtained.

reactant | 3-Isothiocyanatopyridine | 2.6 g | N(=C=S)C=1C=NC=CC1 | C6H4N2S
reactant | (RS)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline | 3.3 g | OCCC1NCC2=CC=CC=C2C1 | C11H15NO
solvent | ethanol | 40 cc | C(C)O | C2H6O
product | (RS)-3-(2-Hydroxyethyl)-N-(pyrid-3-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide | 4.7 g | OCCC1N(CC2=CC=CC=C2C1)C(NC=1C=NC=CC1)=S | C17H19N3OS
